US04294842
2-Dimethylaminobenzenethiol (1.67 g, 0.011 mol) was dissolved in a solution of sodium methoxide (0.59 g) in methanol (50 ml) and 5-chloromethyl-3-(4-chlorophenylthiomethyl)-1,2,4-oxadiazole (3.0 g 0.011 mol) was added dropwise with stirring. After a further 10 min. stirring the solution was filtered and evaporated to leave a brown oil, which was purified by chromatography on silica gel elution with hexane/ether (3:2) giving 3-(4-chlorophenylthiomethyl)-5-(2-dimethylaminophenylthiomethyl)-1,2,4-oxadiazole as a colourless oil, mass spectrum M+1 392; refractive index 1.6263.

reactant | 2-Dimethylaminobenzenethiol | 0.011 mol, 1.67 g | CN(C1=C(C=CC=C1)S)C | C8H11NS
reactant | 5-chloromethyl-3-(4-chlorophenylthiomethyl)-1,2,4-oxadiazole | 0.011 mol, 3.0 g | ClCC1=NC(=NO1)CSC1=CC=C(C=C1)Cl | C10H8Cl2N2OS
solvent | sodium methoxide | 0.59 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-(4-chlorophenylthiomethyl)-5-(2-dimethylaminophenylthiomethyl)-1,2,4-oxadiazole | ClC1=CC=C(C=C1)SCC1=NOC(=N1)CSC1=C(C=CC=C1)N(C)C | C18H18ClN3OS2
